US04755212
Preparation of methyl 3-methyl-N-(6-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonyl)anthranilate
Methyl 3-methylanthranilate (2.1 g, 13 mmol) was dissolved in 4 ml pyridine and 6-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonyl chloride was added. After a mild exothermic reaction subsided the reaction mixture was stirred at 50° C. for 24 hours. The pyridine was removed by evaporation at reduced pressure and the residue was treated with in 10% aqueous sodium bicarbonate. Insouble material was collected by filtration, washed with ether and dried to yield 2.9 (63%) of the desired product as a solid, m.p. 198.5°-205° C. An analytical sample was prepared by recrystallization from ethanol to yield a crystalline solid, m.p. 208.5°-210.5° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | Methyl 3-methylanthranilate | 13 mmol, 2.1 g | CC1=C(C(C(=O)OC)=CC=C1)N | C9H11NO2
reactant | 6-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonyl chloride | CC=1C=NC=2N(C1)N=C(N2)S(=O)(=O)Cl | C6H5ClN4O2S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | methyl 3-methyl-N-(6-methyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonyl)anthranilate | CC1=C(C(C(=O)OC)=CC=C1)NS(=O)(=O)C1=NN2C(N=CC(=C2)C)=N1 | C15H15N5O4S
